US09302991B2
<Step-1>: (2-fluoro-3-(trifluoromethoxy)phenyl)methanol
To a stirred solution of 2-fluoro-3-(trifluoromethoxy)benzaldehyde (1.00 g, 4.81 mmol) in methanol (20 mL) is added Sodium borohydride (0.36 g, 9.61 mmol) at 0° C. After stirring at room temperature for 16 hours, the reaction mixture is quenched with water. The mixture is diluted with ethyl acetate (100 mL) and washed with water. The organic layer is dried over sodium sulfate, and concentrated under reduced pressure to give 0.97 g (96% yield) of the title compound as colorless syrup. This material is used for the next reaction (Step-2) without further purification.

reactant | 2-fluoro-3-(trifluoromethoxy)benzaldehyde | 4.81 mmol, 1.00 g | FC1=C(C=O)C=CC=C1OC(F)(F)F | C8H4F4O2
reactant | Sodium borohydride | 9.61 mmol, 0.36 g | [BH4-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | (2-fluoro-3-(trifluoromethoxy)phenyl)methanol | 0.97 g, 96% yield | FC1=C(C=CC=C1OC(F)(F)F)CO | C8H6F4O2
